US06114558
Following the same general procedure described in Example 1, a 500 ml, four-necked flask fitted with a pressure equalizing funnel was charged with 0.5 mol of isopropylmagnesium chloride in 250 ml of tetrahydrofuran. Cyclohexylamine, 0.55 mol (52 g), was added over 30 minutes via a pressure equalizing funnel. The contents were refluxed for 15 minutes to complete the evolution of gas. Ethyltriethoxysilane, 0.5 mol (96 g) was added via the pressure equalizing funnel. The contents were refluxed at a pot temperature of 70° C. for two hours. Ethyl(cyclohexylamino)diethoxysilane was filtered under nitrogen atmosphere from the magnesium ethoxychloride. The filter cake was washed with ether (2×100 ml) to obtain the residual product. The solvent was removed via rotary evaporation. The residue was distilled under vacuum to yield 102 g of ethyl(cyclohexylamino)diethoxysilane as a colorless oil (purity>98%); bp 68° C./0.5 mm. The total yield was 83% of theoretical.

reactant | isopropylmagnesium chloride | 0.5 mol | C(C)(C)[Mg]Cl
reactant | Cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | Ethyltriethoxysilane | C(C)[Si](OCC)(OCC)OCC | C8H20O3Si
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | ethyl(cyclohexylamino)diethoxysilane | 102 g, yield was 83% | C(C)[Si](OCC)(OCC)NC1CCCCC1 | C12H27NO2Si
